US05128355
Part A: Preparation of 2-n-Butyl-1-[(2'-carbomethoxybiphenyl-4-yl)methyl]-4-chloro-5-(1-naphthylaminocarbonylaminomethyl)imidazole
5-Aminomethyl-2-butyl-1-[(2'-carbomethoxybiphenyl-4-yl)methyl]-4-chloroimidazole (1.00 g, 2.4 mmol, 1 eq) and 1-naphthyl isocyanate (0.35 mL, 2.4 mmol, 1 eq), were mixed and stirred in chloroform at room temperature for 3 days. The solvent was removed in vacuo and the residue was purified by flash chromatography over silica gel in 1:1 hexane/ethyl acetate to yield 770 mg of a white glass. NMR (200 MHz, CDCl3) δ 7.83 (d, 3H, J=6Hz); 7.67 (d, 1H, J=6Hz); 7.56-7.18 (m, 9H); 6.97 (d, 2H, J=7Hz); 6.74 (s, 1H); 5.27 (s, 2H); 4.74 (s, 1H); 4.39 (d, 2H, J=7Hz); 3.58 (s, 3H); 2.60 (t, 2H, J=7Hz); 1.43-1.21 (m, 4H); 0.85 (t, 3H, J=7Hz).

reactant | 5-Aminomethyl-2-butyl-1-[(2'-carbomethoxybiphenyl-4-yl)methyl]-4-chloroimidazole | 2.4 mmol, 1.00 g, 1 eq | NCC1=C(N=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC)CCCC)Cl | C23H26ClN3O2
reactant | 1-naphthyl isocyanate | 2.4 mmol, 0.35 mL, 1 eq | C1(=CC=CC2=CC=CC=C12)N=C=O | C11H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-n-Butyl-1-[(2'-carbomethoxybiphenyl-4-yl)methyl]-4-chloro-5-(1-naphthylaminocarbonylaminomethyl)imidazole | 770 mg | C(CCC)C=1N(C(=C(N1)Cl)CNC(=O)NC1=CC=CC2=CC=CC=C12)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC | C34H33ClN4O3
